US06509354B1
1.0 g (5.2 mmol) of 2,4-dichlorophenylboronic acid, 1.1 g (5.5 mmol) of 4-bromo-2-fluorobenzonitrile, 1.6 g (15.0 mmol) of sodium carbonate and 0.8 g (0.7 mmol) of tetrakis(triphenylphosphine) palladium were added to a solvent mixture of 50 ml of toluene, 25 ml of ethanol and 25 ml of water, and the reaction was carried out under reflux with heating for 2 hours. The reaction mixture was poured into ice-cold water and extracted with toluene. The toluene layer was washed with water twice and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 1.3 g of 2-fluoro-4-(2,4-dichlorophenyl)benzonitrile (yield 93.0%), which was used in Example 8 (1) as the starting material.

reactant | 2,4-dichlorophenylboronic acid | 5.2 mmol, 1.0 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | 4-bromo-2-fluorobenzonitrile | 5.5 mmol, 1.1 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | sodium carbonate | 15.0 mmol, 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 0.7 mmol, 0.8 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-fluoro-4-(2,4-dichlorophenyl)benzonitrile | 1.3 g, yield 93.0% | FC1=C(C#N)C=CC(=C1)C1=C(C=C(C=C1)Cl)Cl | C13H6Cl2FN
